### PR TITLE
[Merged by Bors] - feat(RepresentationTheory/Coinvariants): more API about the coinvariants of a representation

### PR DESCRIPTION
**Pull request by 101damnations**
In this PR we add more API for the coinvariants of a representation `(V, ρ)`:

* `Representation.coinvariantsFinsuppLEquiv ρ α`: given a type `α`, this is the `k`-linear
equivalence between `(α →₀ V)_G` and `α →₀ V_G`.

* `Representation.coinvariantsTprodLeftRegularLEquiv ρ`: the `k`-linear equivalence between
`(V ⊗[k] k[G])_G` and `V` sending `⟦v ⊗ single g r⟧ ↦ r • ρ(g⁻¹)(v)`.

* `Rep.coinvariantsTensor k G`: the functor sending representations `A, B` to `(A ⊗[k] B)_G`. This
is naturally isomorphic to the functor sending `A, B` to `A ⊗[k[G]] B`, where we give `A` the
`k[G]ᵐᵒᵖ`-module structure defined by `g • a := A.ρ g⁻¹ a`.

* `Rep.coinvariantsTensorFreeLEquiv A α`: given a representation `A` and a type `α`, this is the
`k`-linear equivalence between `(A ⊗ (α →₀ k[G]))_G` and `α →₀ A` sending
`⟦a ⊗ single x (single g r)⟧ ↦ single x (r • ρ(g⁻¹)(a))`. This is useful for group homology.

---

- [x] depends on: #21652 
- [x] depends on: #21732 
- [x] depends on: #21733 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/RepresentationTheory/Coinvariants.lean [hunk 1]
```diff
@@ -0,0 +1,405 @@
...
+  congr($(Finsupp.linearCombination_single k (v := fun g => ρ g⁻¹) r g) x)
+
+/-- Given a `k`-linear `G`-representation `(V, ρ)`, this is the linear equivalence
+`(V ⊗ k[G])_G ≃ₗ[k] V` sending `⟦v ⊗ single g r⟧ ↦ r • ρ(g⁻¹)(v)`. -/
+@[simps! symm_apply]
+noncomputable def coinvariantsTprodLeftRegularLEquiv :
+    Coinvariants (ρ.tprod (leftRegular k G)) ≃ₗ[k] V :=
+  LinearEquiv.ofLinear (ofCoinvariantsTprodLeftRegular ρ)
+    (Coinvariants.mk _ ∘ₗ (TensorProduct.mk k V (G →₀ k)).flip (single 1 1)) (by ext; simp) <| by
+      ext x g
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Coinvariants.lean:212]: Why doesn't `ext; simp` work? Is there a missing `ext` lemma?

File: Mathlib/RepresentationTheory/Coinvariants.lean [hunk 2]
```diff
@@ -0,0 +1,405 @@
...
+      exact (mk_eq_iff _).2 <| mem_augmentationSubmodule_of_eq g⁻¹ (x ⊗ₜ single g 1) _ <| by
+        simp [smul_tmul', smul_tmul]
+
+@[simp]
+lemma coinvariantsTprodLeftRegularLEquiv_apply (x) :
+    coinvariantsTprodLeftRegularLEquiv ρ x = ofCoinvariantsTprodLeftRegular ρ x := by
+  rfl
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Coinvariants.lean:219]: Could this be automatically generated?

File: Mathlib/RepresentationTheory/Coinvariants.lean [hunk 3]
```diff
@@ -0,0 +1,405 @@
...
+
+end Coinvariants
+
+variable (k G) in
+open MonoidalCategory ModuleCat.MonoidalCategory in
+/-- The functor sending `A, B` to `(A ⊗[k] B)_G`. This is naturally isomorphic to the functor
+sending `A, B` to `A ⊗[k[G]] B`, where we give `A` the `k[G]ᵐᵒᵖ`-module structure defined by
+`g • a := A.ρ g⁻¹ a`. -/
+@[simps]
+noncomputable def coinvariantsTensor : Rep k G ⥤ Rep k G ⥤ ModuleCat k where
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Coinvariants.lean:305]: This should be using `Functor.postcompose\_2` applied to the "curried tensor" bifunctor, and should probably be an abbrev.

File: Mathlib/RepresentationTheory/Coinvariants.lean [hunk 4]
```diff
@@ -0,0 +1,405 @@
...
+    (coinvariantsTprodLeftRegularLEquiv A.ρ)).toLinearMap ∘ₗ Coinvariants.map (finsuppTensorRight A
+      (leftRegular k G) α).hom
+
+variable {A α}
+
+@[simp]
+lemma coinvariantsTensorFreeToFinsupp_mk_tmul_single (x : A) (i : α) (g : G) (r : k) :
+    DFunLike.coe (F := (A.ρ.tprod (Representation.free k G α)).Coinvariants →ₗ[k] α →₀ A.V)
+      (coinvariantsTensorFreeToFinsupp A α) (Coinvariants.mk _ (x ⊗ₜ single i (single g r))) =
+      single i (r • A.ρ g⁻¹ x) := by
```
Comment (kbuzzard) [inline Mathlib/RepresentationTheory/Coinvariants.lean:356]: Do these actually work as `simp` lemmas?

File: Mathlib/RepresentationTheory/Coinvariants.lean [hunk 5]
```diff
@@ -0,0 +1,405 @@
...
+      single x (Coinvariants.mk _ a) := by
+  simp [coinvariantsToFinsupp]
+
+variable (ρ α) in
+/-- Given a `G`-representation `(V, ρ)` and a type `α`, this is the map `(α →₀ V_G) →ₗ (α →₀ V)_G`
+sending `single a ⟦v⟧ ↦ ⟦single a v⟧`. -/
+noncomputable def finsuppToCoinvariants :
+    (α →₀ Coinvariants ρ) →ₗ[k] Coinvariants (ρ.finsupp α) :=
+  lsum (R := k) k fun a => Coinvariants.lift _ (Coinvariants.mk _ ∘ₗ lsingle a) fun g =>
+    LinearMap.ext fun x => (mk_eq_iff _).2 <|
```
[the remark this answers is not in the document]
Comment (101damnations) [reply Mathlib/RepresentationTheory/Coinvariants.lean]: it's not a map out of the coinvariants so nah

File: Mathlib/RepresentationTheory/Coinvariants.lean [hunk 6]
```diff
@@ -0,0 +1,405 @@
...
+/-- Given a `G`-representation `(V, ρ)` and a type `α`, this is the linear equivalence
+`(α →₀ V)_G ≃ₗ (α →₀ V_G)` sending `⟦single a v⟧ ↦ single a ⟦v⟧`. -/
+@[simps! symm_apply]
+noncomputable def coinvariantsFinsuppLEquiv :
+    Coinvariants (ρ.finsupp α) ≃ₗ[k] α →₀ Coinvariants ρ :=
+  LinearEquiv.ofLinear (coinvariantsToFinsupp ρ α) (finsuppToCoinvariants ρ α)
+    (by ext; simp) (by ext; simp)
+
+@[simp]
+lemma coinvariantsFinsuppLEquiv_apply (x) :
```
[the remark this answers is not in the document]
Comment (101damnations) [reply Mathlib/RepresentationTheory/Coinvariants.lean]: done, thanks!

File: Mathlib/RepresentationTheory/Coinvariants.lean (hunk 1 above)
Comment (101damnations) [reply Mathlib/RepresentationTheory/Coinvariants.lean]: ooh, `ext; simp` does work

**Comment by kbuzzard** [comment]
LGTM now

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
